US08557992B2
8-[(1S,2S)-2-hydroxycyclohexyl]-5-(pyridin-3-ylmethyl)-1,8-phenanthrolin-7(8H)-one
A solution of 8-[(1S,2S)-2-hydroxycyclohexyl]-5-{[6-methylsulfanyl)pyridin-3-yl]methyl}-1,8-phenanthrolin-7(8H)-one (40 mg, 0.093 mmol) in EtOH (1.9 mL) was treated with 0.22 g of Raney nickel slurry and heated at reflux for 3 h. Additional Raney nickel slurry (0.25 g) was added and heating continued for 1 hour (h). The gray suspension was filtered through Celite. The resulting filtrate was concentrated and dried in vacuo. The crude material was purified via silica gel chromatography, eluting with 25-100% ethyl acetate in hexanes, followed by elution with 0-15% MeOH in CH2Cl2. The resultant off-white solid gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 386.0 for [M+H]+: 1H NMR (400 MHz, CDCl3) δ 8.95 (dd, J=4.4, 1.6 Hz, 1H), 8.55 (d, J=1.6 Hz, 1H), 8.42 (dd, J=4.4, 1.2 Hz, 1H), 8.21 (s, 1H), 8.13 (dd, J=8.4, 1.6 Hz, 1H), 7.90 (d, J=7.2 Hz, 1H), 7.48 (d, J=7.6 Hz, 1H), 7.44 (dd, J=8.4, 4.0 Hz, 1H), 7.34-7.36 (m, 1H), 7.11 (dd, J=8.0, 4.8 Hz, 1H), 4.97 (br s, 1H), 4.39 (s, 2H), 3.90 (br s, 1H), 2.25-2.30 (m, 1H), 2.00-2.04 (m, 1H), 1.87 (d, J=8.0 Hz, 1H), 1.69-1.78 (m, 1H), 1.37-1.64 (m, 3H).

reactant | 1,8-phenanthrolin-7(8H)-one | 0.093 mmol, 40 mg | N1=CC=CC2=CC=C3C(NC=CC3=C12)=O | C12H8N2O
reactant | EtOH | 1.9 mL | CCO | C2H6O
catalyst | Raney nickel | 0.22 g | [Ni] | Ni
product | 8-[(1S,2S)-2-hydroxycyclohexyl]-5-(pyridin-3-ylmethyl)-1,8-phenanthrolin-7(8H)-one | O[C@@H]1[C@H](CCCC1)N1C(C2=CC(=C3C=CC=NC3=C2C=C1)CC=1C=NC=CC1)=O | C24H23N3O2
